US08013181B2
Alternate Process for the Preparation of 1-(3-Methoxy-Phenyl)-Ethyl Amine (Formula VI)
To a solution of 45 g of 1-(3-methoxy-phenyl)-ethanone oxime in 675 ml of methanol charged 45 g of Raney Ni. The resultant suspension was agitated at about 28° C. under 3 kg/cm2 anhydrous hydrogen gas pressure for about 4 hours. After completion of the reaction, the reaction mass was filtered through celite and washed with 90 ml of methanol. The filterate was distilled under vacuum at about 55° C. To the residue charged 150 ml of methanolic HCL and distilled completely under vacuum at about 50° C. To the residue charged 100 ml of acetone and stirred at about 15° C. for about one hour. Separated solid was filtered and the solid was washed with 30 ml of acetone. The solid obtained was dried at about 50° C. for about 3 hours.

reactant | 1-(3-methoxy-phenyl)-ethanone oxime | 45 g | COC=1C=C(C=CC1)C(C)=NO | C9H11NO2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 675 ml | CO | CH4O
catalyst | Ni | [Ni] | Ni
product | 1-(3-Methoxy-Phenyl)-Ethyl Amine | COC=1C=C(C=CC1)C(C)N | C9H13NO
